US07906517B2
2-Fluoro-5-trifluoromethyl-benzaldehyde (2.7 g) and ethyl-(2-methoxy-ethyl)-amine (2.18 g) are dissolved in toluene (20 ml), and thereto is added potassium carbonate (5.83 g) and the mixture is stirred at 120° C. overnight. The reaction solution is cooled to room temperature, and thereto are added ethyl acetate and a saturated brine and the mixture is separated, and the organic layer is washed with a saturated brine, and the mixture is dried over magnesium sulfate and concentrated under reduced pressure. The residue is purified by silica gel column chromatography (hexane:ethyl acetate=19:1→4:1) to give 2-[ethyl-(2-methoxy-ethyl)-amino]-5-trifluoromethyl-benzaldehyde (3.75 g). MS (m/z): 276 [M+H]+

reactant | 2-Fluoro-5-trifluoromethyl-benzaldehyde | 2.7 g | FC1=C(C=O)C=C(C=C1)C(F)(F)F | C8H4F4O
reactant | ethyl-(2-methoxy-ethyl)-amine | 2.18 g | C(C)NCCOC | C5H13NO
reactant | potassium carbonate | 5.83 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | 2-[ethyl-(2-methoxy-ethyl)-amino]-5-trifluoromethyl-benzaldehyde | 3.75 g | C(C)N(C1=C(C=O)C=C(C=C1)C(F)(F)F)CCOC | C13H16F3NO2
